US07253286B2
Methyl 7-(benzyloxy)-4-chloro-6-quinoline carboxylate
After adding thionyl chloride (70 ml) and a catalytic amount of dimethylformamide to methyl 7-(benzyloxy)-4-oxo-1,4-dihydro-6-quinolinecarboxylate (7.19 g, 23.2 mmol), the mixture was heated to reflux for 3 hours while stirring. The reaction solution was concentrated under reduced pressure, a 2N sodium hydroxide solution was gradually added for neutralization, extraction was performed with ethyl acetate, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, diethyl ether was added for crystallization, and the crystals were filtered out and blow-dried to obtain the title compound (4.067 g, 12.4 mmol) as light brown crystals.

reactant | thionyl chloride | 70 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 7-(benzyloxy)-4-oxo-1,4-dihydro-6-quinolinecarboxylate | 23.2 mmol, 7.19 g | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)C(=O)OC | C18H15NO4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 7-(benzyloxy)-4-chloro-6-quinoline carboxylate | 12.4 mmol, 4.067 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)C(=O)OC | C18H14ClNO3
